Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of CAD, CKD (baseline Cr 1.2-1.3), bladder 
cancer s/p ileal conduit/urostomy, gallbladder carcinoma s/p 
cholecystectomy and partial hepatectomy, recurrent E. coli UTIs 
who presents s/p fall with productive cough and altered mental 
status.

Patient notes cough for last two weeks, but was overall feeling 
well. Then 2 days ago noticed significant global weakness, found 
it hard to get up from sitting. Was sitting on the floor and 
tried to get up to his bed and was unable to, rolled sideways in 
a dresser and hit his head. He reports that he feels generalized 
fatigue when he has infections, especially with his previous 
UTIs. He was reportedly altered when he arrived in the emergency 
room. 

In the ED: 
- Initial vitals were 99.0 94 141/93 18 96% RA 227
- Exam notable for: altered mental status, diffuse rhonchi on 
auscultation
- Imaging includes: NCHCT with no intracranial process, left 
paranasal sinus disease. CT C-Spine with no acute fx, multilevel 
degenerative changes most severe at C5-6. CXR showed increased 
interstitial markings consistent with chronic abnormality vs 
atypical infection vs edema. 
- Labs notable for: WBC 8.0 with 76% PMNs. Creat 1.5 (baseline 
1.2-1.3). FluAPCR positive. UA with 77 WBCs, mod leuks, neg 
nitrites, mild proteinuria. 
- Patient given: Ceftriaxone 1gm, tamiflu

On the floor,  the patient is alert and oriented, conversant and 
able to relay the details of his fall. He denies fevers, chills, 
shortness of breath, chest pain, nausea, vomiting, diarrhea, or 
change in his urine appearance or quantity. He reports taking 
good PO throughout. He reports only a cough for last ___s the fatigue for two days. 

 
Past Medical History:
Coronary artery disease - ___ cath with right dominant system. 
The LMCA was patent. The LAD
revealed mid 40%, DIAG 50% and diffuse distal distal disease in
the large septal. The LCx with no significant disease. The RCA
with mid 20% stenosis.  
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit 
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___ 
Glaucoma
Osteopenia
Recurrent UTIs and bacteremias: MRSA, Enterococcus, Pan 
sensitive E coli, Pan sensitive klebsiella

 
Social History:
___
Family History:
Per OMR:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
Admission exam: 
VITALS:  98.7 PO 105 / 71 92 26 94 ra 
GENERAL: Alert, oriented x3, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
LUNGS: breathing comfortably on room air, R lung with mild 
wheezing and basilar crackles, L lung is clear to auscultation. 
ABDOMEN: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. urostomy bag is 
present, fillied with clear yellow urine, no erythema or 
evidence of infection  
GU: urostomy bag 
EXTREMITIES: Warm, well perfused, 2+ pulses, 1+ pitting edema 
NEURO: Face grossly symmetric. Moving all limbs with purpose 
against gravity. Pupils equal and reactive, no dysarthria. 
Alert, oriented x3, oriented to situation, able to perform 
serial 7s 

Discharge exam: 
Vitals:  98.1 | ___ | ___ | ___ | 94-95RA
GENERAL: Alert, oriented x3, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL
CARDIOVASCULAR: Regular rate and rhythm, no M/G/R. Regular 
pulse. JVP not appreciable.
LUNGS: breathing comfortably on room air, expiratory rhonchi 
bilaterally in med and lower lung fields. No wheezes, crackles, 
or rales 
ABDOMEN: Soft, non-tender, distended, bowel sounds present, no 
rebound or guarding. urostomy with pink stoma w/o signs of 
infection, bag filled with clear yellow urine.
EXTREMITIES: Warm, well perfused, 2+ pulses, 1+ pitting edema 
bilaterally 
NEURO: Face grossly symmetric. Moving all 4 extremities with 
purpose. No tremor appreciated.
SKIN: no rashes, ecchymosis, pallor
 
Pertinent Results:
Admission labs: 

 
Brief Hospital Course:
___ man with history of CAD, CKD (baseline Cr 1.2-1.3), bladder 
cancer s/p ileal conduit/urostomy, gallbladder carcinoma s/p 
cholecystectomy and partial hepatectomy, recurrent E. coli UTIs 
who presented s/p fall with weakness, altered mental status and 
cough. He reported having a mild nonproductive cough for about 2 
weeks. 2 days PTA he developed profound weakness and was unable 
to get up from sitting. He attempted to stand from the floor to 
get into bed and due to weakness fell and hit his head. family 
reported he appeared mildly confused on the phone. CT head and 
CT neck were negative for acute injury. He tested positive for 
influenza A and was started on tamiflu. UCx contaminated. He was 
initially also started on broad spectrum antibiotics for UTI but 
these were held after UCx returned. His mental status returned 
to baseline quickly and he regained his strength and was able to 
walk around without difficulty. He was discharged home on 
tamiflu course. Of note, he was noted on telemetry to have PVCs 
and frequent nonsustained VT, which had been noted in setting of 
infection on prior admissions. These were well-controlled by 
uptitrating his metoprolol to BID from TID during this 
admission. He as discharged on home dose of metoprolol. 

By problem: 
 
# Weakness: 
Likely in the setting of infection, as the patient tested 
positive for influenza A. CXR without clear suggestion of 
pneumonia, UA dirty but UCx suggestive of contamination rather 
than UTI. He was intiially started on broad spectrum antibiotics 
but these were discontinued after negative cultures. CAP 
coverage also started initially but discontinued. acute coronary 
syndrome was ruled out and BNP elevated but lower than previous, 
and he was clinically euvolemic. 

# Influenza A: Tamiflu 30mg q12h x5d (___) 

# HFrEF: EF 40% in ___. Likely ischemic. BNP elevated at 2275 
(prior in ___ of 4288), patient was dlinically euvolemic. He 
was continued on his home lisinopril. His home metoprolol was 
uptitrated from BID to TID dosing in the setting of nonsustained 
VT (see below). 

#AMS
#Fall
Patient felt weak at home and attempted to stand up from the 
floor, felt weak and was unable to get into bed. He rolled to 
the floor and hit his head. he denies losing consciousness. His 
family noted he had been confused that day, and he was noted to 
be confused in the ED. By the time he was admitted to the floor 
his mental status had dramatically improved and he was alert and 
oriented x3, and able to recount the full incident and perform 
serial 7s. His AMS was likely in setting of infection. His CT 
Head and Neck were negative for acute injury or bleed. 

# ___ on CKD: mild ___ in likely in setting of poor PO intake 
and infection. resolved. 

# Ectopy: patient has a history of ventricular ectopy and 
nonsustained VT noted on prior admission in setting of 
infection. He was noted to have frequent PVCs and nonsustained 
VT this admission as well ans his home metoprolol 12.5mg BID was 
uptitrated to TID with good control. He was discharged back on 
his home BID dosing. 

# HTN: held home lisinopril 2.5mg, and resumed on discharge. 
# CAD: Continued home ASA 81mg and atorvastatin 20. 
# HLD: Continued home atorvastatin 20mg

==============================
Transitional issues: 
==============================
- Discharged on all home meds 
- Needs to complete Tamiflu for total ___
- Consider home safety evaluation as patient tends to present 
with weakness when he has infection. 
- Patient was noted to have mildly elevated blood sugars in 
160s-200s in house. His last A1c was checked about 6 months ago 
and was 7.4, please consider rechecking if it is felt 
appropriate. 

- CONTACT: ___ ___
- CODE STATUS: Full code (confirmed) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Lumigan (bimatoprost) 0.01 % ophthalmic BID 
3. Lisinopril 2.5 mg PO DAILY 
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
6. Ascorbic Acid ___ mg PO TID 
7. calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit oral 
DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. coenzyme Q10 unknown mg oral DAILY 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Vitamin B Complex 1 CAP PO DAILY 
13. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  OSELTAMivir 30 mg PO Q12H 
RX *oseltamivir 30 mg 1 capsule(s) by mouth twice a day Disp #*5 
Capsule Refills:*0 
2.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
3.  Ascorbic Acid ___ mg PO TID  
4.  Atorvastatin 20 mg PO QPM  
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID  
6.  calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit oral 
DAILY  
7.  coenzyme Q10 unknown  oral DAILY  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  Lisinopril 2.5 mg PO DAILY  
10.  Lumigan (bimatoprost) 0.01 % ophthalmic BID  
11.  Metoprolol Tartrate 12.5 mg PO BID  
12.  Multivitamins 1 TAB PO DAILY  
13.  Vitamin B Complex 1 CAP PO DAILY  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Influenza
Fall

SECONDARY DIAGNOSIS: 
premature ventricular contractions  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___ 
___. 

Why you were here: 
- You came in because you got an infection and became very weak 
at home. You had a fall at home as a result. 

What we did while you were here: 
- We did a CT scan of your head and neck and did not see any 
injuries. 
- We tested you for infections and found that you had the flu. 
- We gave you antibiotics and an anti-influenza medication 
called Tamiflu. 

What to do when you go home: 
- Please take all your medications as described below. 
- Please continue to take the Tamiflu as prescribed (twice a 
day, last day is ___ 
- Please call Dr. ___ office at ___ to make an 
appointment for within ___ weeks.  
- Please call your doctor if you feel weak again, if your urine 
changes in color or if you are urinating less, if you get 
nausea, vomiting, or diarrhea, or if you or your family notice 
that you are more confused than usual. 

Sincerely, 
Your ___ team 

 
Followup Instructions:
___